US05472933
N-(1,1-Dimethylethyl)-1-methyl-1H-pyrrole-3-sulfonamide
A solution of N-(1,1-dimethylethyl)-1H-pyrrole-3-sulfonamide 9 g (0.044 mol) in 90 mL N,N-dimethylforamide was cooled to 15° C. under a nitrogen atmosphere. To this was added 3.2 mL (0.053 mol) of methyl iodide followed by 5.43 g (0.048 mol) of potassium t-butoxide. The mixture was warmed at ca. 60° C. for 2 hours then allowed to cool to room temperature and stirred for ca. 2 hours. The reaction mixture was diluted with ethyl acetate, washed three times with 1N HCl, once with brine, dried (MgSO4) and evaporated to an oily solid which was triturated with 5% diethyl ether/95% hexanes affording 6 g of the title compound as a beige solid, m.p. 134°-135° C. 1H NMR (CDCl3, 200 MHz.) δ: 7.11(s,1H), 6.59(d,1H), 6.41(d,1H), 4.32(bs,1H), 3.67(s,3H), 1.26(s,9H).

reactant | N-(1,1-dimethylethyl)-1H-pyrrole-3-sulfonamide | 0.044 mol, 9 g | CC(C)(C)NS(=O)(=O)C1=CNC=C1 | C8H14N2O2S
reactant | methyl iodide | 0.053 mol, 3.2 mL | CI | CH3I
reactant | potassium t-butoxide | 0.048 mol, 5.43 g | CC(C)([O-])C.[K+]
solvent | N,N-dimethylforamide | 90 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1,1-Dimethylethyl)-1-methyl-1H-pyrrole-3-sulfonamide | CC(C)(C)NS(=O)(=O)C1=CN(C=C1)C | C9H16N2O2S
